US08895596B2
Step B: 3-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}cyclopentane carboxylic acid.
To a solution of ethyl 3-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate (80 mg, 0.135 mmol) in 2.7 mL of THF was added TBAF (0.700 mL, 0.700 mmol) dropwise via syringe. The reaction was heated at 80° C. for 1.5 h. After heating for 4 h, the reaction was concentrated and the residue was re-dissolved in 4 mL of MeOH and treated with 1 mL of 2.5 N NaOH. The reaction was maintained at ambient temperature overnight. Then the solvent was removed and the resulting residue was dissolved in H2O and acidified to pH 1 with 2 N HCl. The aqueous layer was separated and extracted with EtOAc. The combined organic layers were washed with 2 N HCl, H2O, and brine. The combined organic layers were then dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by reverse phase Gilson™ HPLC (30-100% MeCN/H2O) afforded a 1:1 cis/trans mixture of the title compound as a white solid. LCMS: calculated for C25H21ClN2O3 432.89, observed m/e 432.93 M+ (Rt 2.13/4 min). 1H NMR (500 MHz, CD3OD): δ7.7.72-7.63 (m, 8H), 7.58-7.55 (m, 2H), 7.49 (d, 4H), 7.47-7.42 (m, 4H), 7.42-7.38 (m, 2H), 7.37-7.32 (m, 2H), 5.54-5.47 (m, 1H), 5.46-5.40 (m, 1H), 3.16-3.05 (m, 1H), 3.05-2.95 (m, 1H), 2.54-2.43 (m, 1H), 2.42-2.31 (m, 3H), 2.31-1.95 (m, 8H).

reactant | ethyl 3-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate | 0.135 mmol, 80 mg | C1(=CC=C(C=C1)C1=CC2=C(N(C(=N2)OC2CC(CC2)C(=O)OCC)COCC[Si](C)(C)C)C=C1Cl)C1=CC=CC=C1 | C33H39ClN2O4Si
reactant | TBAF | 0.700 mmol, 0.700 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2.7 mL | C1CCOC1 | C4H8O
product | 3-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2-yl]oxy}cyclopentane carboxylic acid | C1(=CC=C(C=C1)C1=CC2=C(NC(=N2)OC2CC(CC2)C(=O)O)C=C1Cl)C1=CC=CC=C1 | C25H21ClN2O3
